US05068340
2-O-(5-Phenyl-3-isoxazolyl)glycerol
A solution of 9.118 g of diethyl 2-(5-phenyl-3-isoxazolyloxy)malonate (prepared as described in Preparation 22) in 50 ml of tetrahydrofuran wa added dropwise to a suspension of 4.33 g of lithium aluminum hydride in 50 ml of tetrahydrofuran, whilst ice-cooling. The reaction mixture was then heated under reflux for 5 hours, after which it was worked-up in a similar manner to that described in Preparation 20, to afford 4.394 g if the title compound as white crystals, melting at 117°-119° C. (from a mixture of methanol and methylene chloride).

reactant | diethyl 2-(5-phenyl-3-isoxazolyloxy)malonate | 9.118 g | C1(=CC=CC=C1)C1=CC(=NO1)OC(C(=O)OCC)C(=O)OCC | C16H17NO6
reactant | lithium aluminum hydride | 4.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-O-(5-Phenyl-3-isoxazolyl)glycerol | C1(=CC=CC=C1)C1=CC(=NO1)OC(CO)CO | C12H13NO4
